US04072498
Following the procedure of Example 121, but substituting 2,3-dibromo-N,N-dimethylpropionamide for 2-bromo-N,N,2-trimethylpropionamide and 4-methyl-3-phenylpyrazole for 3-phenylpyrazole there was obtained α-bromo-N,N,4-trimethyl-3-phenylpyrazole-1-propionamide having a melting point of 104°-107° C.

reactant | 2-bromo-N,N,2-trimethylpropionamide | BrC(C(=O)N(C)C)(C)C | C6H12BrNO
reactant | 4-methyl-3-phenylpyrazole | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
reactant | 3-phenylpyrazole | C1(=CC=CC=C1)C1=NNC=C1 | C9H8N2
product | α-bromo-N,N,4-trimethyl-3-phenylpyrazole-1-propionamide | BrC(C(=O)N(C)C)CN1N=C(C(=C1)C)C1=CC=CC=C1 | C15H18BrN3O
